US09388189B2
5-Bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
Sodium hydride (60% dispersion in mineral oil, 0.205 g, 5.13 mmol) was suspended in 5 mL dimethylformamide. The mixture was stirred for 10 min and then cooled at 0° C. with an ice bath. 5-Bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (1 g, 4.30 mmol) dissolved in 5 mL dimethylformamide was added dropwise and the mixture was stirred for 30 min. At the same temperature [2-(chloromethoxy)ethyl](trimethyl)silane (0.9 g, 5.4 mmol) dissolved in 5 mL dimethylformamide was added dropwise and stirred for 30 min at 0° C. The mixture was poured into water and extracted twice with ethyl acetate. The organics were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 1.18 g (76% yield) of the title compound as a white solid. Purity 100%.

reactant | Sodium hydride | 5.13 mmol, 0.205 g | [H-].[Na+]
reactant | 5-Bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 4.30 mmol, 1 g | BrC1=CNC=2N=CN=C(C21)Cl | C6H3BrClN3
reactant | [2-(chloromethoxy)ethyl](trimethyl)silane | 5.4 mmol, 0.9 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.18 g, 76% yield | BrC1=CN(C=2N=CN=C(C21)Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
